US08193199B2
To N-((8-fluoro-2-phenylquinolin-3-yl)methyl)acetamide (28 mg, 95 μmol) was added hydrochloric acid (2 M solution in water, 2 mL, 4000 μmol). The reaction was heated to 80 C for 24 h. The reaction was cooled to rt and quenched with 15% NaOH. The product was extracted into ether (2×10 mL) and the combined organics were washed with brine, dried over MgSO4, filtered, and concentrated to afford (8-fluoro-2-phenylquinolin-3-yl)methanamine. 1H NMR (400 MHz, CDCl3) δ ppm 8.34 (s, 1H), 7.65 (d, J=8.2 Hz, 1H), 7.61 (m, 2H), 7.48 (m, 4H), 7.39 (ddd, J=10.6, 7.8, 1.6 Hz, 1H), 4.05 (s, 2H), 2.03 (br s, 2H). Mass Spectrum (ESI) m/e=253.0 (M+1).

reactant | N-((8-fluoro-2-phenylquinolin-3-yl)methyl)acetamide | 95 μmol, 28 mg | FC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CNC(C)=O | C18H15FN2O
reactant | hydrochloric acid | 4000 μmol, 2 M, 2 mL | Cl | ClH
product | (8-fluoro-2-phenylquinolin-3-yl)methanamine | FC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CN | C16H13FN2
